US05204336
To a solution of 8,8-dimethyl-1-methoxy-5,6,7,8-tetrahydronaphthalene (16.4 g, 86 mmole) in dry dichloromethane (300 ml), boron tribomide (23.75 g, 91 mmole) was added at -58°. The mixture was stirred and warmed to 0° over 3 hours, poured into ice-water (1 lit) and extracted with diethylether. The ethereal extract was washed with water and aqueous saturated sodium chloride, dried and evaporated. The residue was chromatographed in silica gel using dichloromethane as eluant to give 8,8-dimethyl-5,6,7,8-tetrahydro-1-naphthol as an oil (11.2 g, 73.2%).

reactant | 8,8-dimethyl-1-methoxy-5,6,7,8-tetrahydronaphthalene | 86 mmole, 16.4 g | CC1(CCCC=2C=CC=C(C12)OC)C | C13H18O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | boron | [B] | B
product | 8,8-dimethyl-5,6,7,8-tetrahydro-1-naphthol | 11.2 g, 73.2% | CC1(CCCC=2C=CC=C(C12)O)C | C12H16O
